US07176242B2
Step 3: 6-[(Methylsulfonyl)methyl]nicotinic acid
To a stirred solution of methyl 6-[(methylsulfonyl)methyl]nicotinate (800 mg) in 1:1:1 tetrahydrofuran/methanol/water (30 mL) was added lithium hydroxide (440 mg). The mixture was stirred at room temperature for 1 h, and concentrated under reduced pressure. The residue was partitioned between water (10 mL) and chloroform (10 mL). The aqueous layer was acidified to pH 4 with 1 N hydrochloric acid and extracted with 3:1 chloroform/2-propanol (3×30 mL). The combined organic layers were dried (sodium sulfate), filtered, and concentrated under reduced pressure to provide 700 mg of the title compound: 1H NMR (300 MHz, CD3OD) δ 9.07, 8.33, 7.65, 4.77, 3.06.

reactant | methyl 6-[(methylsulfonyl)methyl]nicotinate | 800 mg | CS(=O)(=O)CC1=NC=C(C(=O)OC)C=C1 | C9H11NO4S
reactant | lithium hydroxide | 440 mg | [OH-].[Li+]
solvent | tetrahydrofuran methanol water | 30 mL | O1CCCC1.CO.O
product | 6-[(Methylsulfonyl)methyl]nicotinic acid | 700 mg | CS(=O)(=O)CC1=NC=C(C(=O)O)C=C1 | C8H9NO4S
